US08871797B2
Step 6: Preparation of 1-[3-(4-Bromo-2H-pyrazol-3-yl)-4-methoxy-phenyl]-3-(2,4-difluoro-phenyl)-urea
To a cooled and stirred solution of 1-(2,4-Difluoro-phenyl)-3-[4-methoxy-3-(2H-pyrazol-3-yl)-phenyl]-urea (0.6 g, 1.74 mmole) in DMF (15 mL) was added N-bromosuccinimide (0.37 g, 2.09 mmole) over a period of 15 minutes. The reaction mixture was warmed slowly to ambient temperature and stirred for another 2 hrs. The reaction mixture was poured into well-stirred ice water containing NaHCO3/Na2S2O3. The resulting solid was filtered and washed with ice water (50 mL). The solid was dried in vacuo to afford off-white solid (0.68 g, 92%). LCMS ink (%)=425 (M+H, 79Br, 100), 427 (M+H, 81Br, 99). 1H NMR (Bruker, 400 MHz, DMSO-d6) δ: 8.96 (bs, 1H), 8.44 (bs, 1H), 8.02-8.08 (m, 1H), 7.48 (bs, 2H), 7.27-7.32 (m, 1h), 6.99-7.08 (m, 2H), 3.73 (s, 3H) (major tautomer).

reactant | 1-(2,4-Difluoro-phenyl)-3-[4-methoxy-3-(2H-pyrazol-3-yl)-phenyl]-urea | 1.74 mmole, 0.6 g | FC1=C(C=CC(=C1)F)NC(=O)NC1=CC(=C(C=C1)OC)C=1NN=CC1 | C17H14F2N4O2
reactant | N-bromosuccinimide | 2.09 mmole, 0.37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaHCO3 Na2S2O3 | C(=O)(O)[O-].[Na+].[O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-[3-(4-Bromo-2H-pyrazol-3-yl)-4-methoxy-phenyl]-3-(2,4-difluoro-phenyl)-urea | 0.68 g, 92% | BrC1=C(NN=C1)C=1C=C(C=CC1OC)NC(=O)NC1=C(C=C(C=C1)F)F | C17H13BrF2N4O2
